US04080335
2,2-Dimethyl-4-(3-trifluoromethylphenyl)chroman-7-ol
7-Benzyloxy-2,2-dimethyl-4-(3-trifluoromethylphenyl)-2H-chromene (10.0g) was dissolved in ethanol (100 ml) and 10% Pd/C (1 g) added. This was hydrogenated at 60° and 5 atmospheres pressure for 18 hours. Filtration through kiesleguhr and evaporation of the solvent under reduced pressure gave an oil which solidified on addition of carbon tetrachloride. Recrystallisation from carbon tetrachloride gave the title compound (7.7g), m.p. 63°-68° C, (analysing as compound plus 1 mole of carbon tetrachloride).

reactant | 7-Benzyloxy-2,2-dimethyl-4-(3-trifluoromethylphenyl)-2H-chromene | 10.0g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(OC2=C1)(C)C)C1=CC(=CC=C1)C(F)(F)F | C25H21F3O2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 1 mole | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2,2-Dimethyl-4-(3-trifluoromethylphenyl)chroman-7-ol | 7.7g | CC1(OC2=CC(=CC=C2C(C1)C1=CC(=CC=C1)C(F)(F)F)O)C | C18H17F3O2
